US07977477B2
136A. Synthesis of 2-[4-(2,6-difluoro-benzoylamino)-1H-pyrazol-3-yl]-6-ethoxy-1H-benzimidazole-5-carboxylic Acid
A mixture of 2-[4-(2,6-difluoro-benzoylamino)-1H-pyrazol-3-yl]-6-ethoxy-1H-benzimidazole-5-carboxylic acid methyl ester (90 mg) in MeOH-2M aqueous NaOH (1:1, 10 mL) was stirred at r.t. for 14 h. The MeOH was removed in vacuo and water (30 mL) added. The mixture was taken to pH=3 using 2M aqueous HCl and then extracted with EtOAc (×3). The combined organic extracts were reduced in vacuo and dried through azeotrope with toluene to give the title compound (72 mg) as a gray solid. (LC/MS: Rt 2.70, [M+H]+ 428.04).

reactant | 2-[4-(2,6-difluoro-benzoylamino)-1H-pyrazol-3-yl]-6-ethoxy-1H-benzimidazole-5-carboxylic acid methyl ester | 90 mg | COC(=O)C1=CC2=C(NC(=N2)C2=NNC=C2NC(C2=C(C=CC=C2F)F)=O)C=C1OCC | C21H17F2N5O4
solvent | MeOH | 2M, 10 mL | CO | CH4O
product | 2-[4-(2,6-difluoro-benzoylamino)-1H-pyrazol-3-yl]-6-ethoxy-1H-benzimidazole-5-carboxylic Acid | 72 mg | FC1=C(C(=O)NC=2C(=NNC2)C2=NC3=C(N2)C=C(C(=C3)C(=O)O)OCC)C(=CC=C1)F | C20H15F2N5O4
